US04976874
Into a 500 ml flask fitted with a reflux condenser and a heating mantle was placed tris(3,6-dioxaheptyl)amine (14.55 g, 45 mmoles) and 150 ml acetone. Allyl bromide (6.53 g, 54 mmoles, 20% excess) was added and the solution brought to reflux. After 28 hours the 1H-NMR spectrum indicated that the starting amine had been consumed. Removal of the solvent in vacuo gave crude product, N-(2-propeny)-N,N,N-tris(3,6-dioxaheptyl)ammonium bromide, as an amber oil (yield 19.66 g, 98%).

reactant | tris(3,6-dioxaheptyl)amine | 45 mmoles, 14.55 g | C(COCCOC)N(CCOCCOC)CCOCCOC | C15H33NO6
reactant | Allyl bromide | 54 mmoles, 6.53 g | C(C=C)Br | C3H5Br
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | N-(2-propeny)-N,N,N-tris(3,6-dioxaheptyl)ammonium bromide | [Br-].C(C=C)[N+](CCOCCOC)(CCOCCOC)CCOCCOC | InChI=1S/C18H38NO6.BrH/c1-5-6-19(7-10-23-16-13-20-2,8-11-24-17-14-21-3)9-12-25-18-15-22-4;/h5H,1,6-18H2,2-4H3;1H/q+1;/p-1
